US06133258
The reaction procedure of Example 57 was followed except that 1.757 g (11.2 mmol) of 2-chloronicotinic acid, 15 ml of thionyl chloride, two droplets of DMF, 891 mg of ammonium thiocyanate, 15 ml of acetone, 1.78 g of N-methyl-4-nitroaniline and 10 ml of acetone were used. The product was then recrystallized from ethanol to obtain 2.85 g of 2-[N-methyl-N-(4-nitrophenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | 2-chloronicotinic acid | 11.2 mmol, 1.757 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium thiocyanate | 891 mg | [S-]C#N.[NH4+]
reactant | N-methyl-4-nitroaniline | 1.78 g | CNC1=CC=C(C=C1)[N+](=O)[O-] | C7H8N2O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[N-methyl-N-(4-nitrophenyl)amino]-4H-pyrido[3,2-e]-1,3-thiazin-4-one | 2.85 g | CN(C1=CC=C(C=C1)[N+](=O)[O-])C=1SC2=C(C(N1)=O)C=CC=N2 | C14H10N4O3S
